US04337256
1-Cyclohexyl-5-chloromethylisoquinoline and sodium cyanide were reacted in the same way as in step (h) of Example 13 to afford 1-cyclohexylisoquinoline-5-acetonitrile having a melting point of 85.3° to 85.6° C.

reactant | 1-Cyclohexyl-5-chloromethylisoquinoline | C1(CCCCC1)C1=NC=CC2=C(C=CC=C12)CCl | C16H18ClN
reactant | sodium cyanide | [C-]#N.[Na+]
product | 1-cyclohexylisoquinoline-5-acetonitrile | C1(CCCCC1)C1=NC=CC=2C(=CC=CC12)CC#N | C17H18N2
